US06812227B2
According to the procedure of Example 250, lithium iodide mediated ester cleavage of 0.282 g (0.61 mmol) of methyl (3S)-2,2-dimethyl-4-({4-[(3-phenyl-2-propynyl)oxy]phenyl}sulfonyl)-3-thiomorpholinecarboxylate provided 0.215 g (79%) of (3S)-2,2-dimethyl-4-({4-[(3-phenyl-2-propynyl)oxy]phenyl}sulfonyl)-3-thiomorpholine carboxylic acid as a white solid. Electrospray Mass Spec: 446.0 (M+H)+

reactant | lithium iodide | [I-].[Li+]
reactant | methyl (3S)-2,2-dimethyl-4-({4-[(3-phenyl-2-propynyl)oxy]phenyl}sulfonyl)-3-thiomorpholinecarboxylate | 0.61 mmol, 0.282 g | CC1([C@@H](N(CCS1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC1=CC=CC=C1)C(=O)OC)C | C23H25NO5S2
product | (3S)-2,2-dimethyl-4-({4-[(3-phenyl-2-propynyl)oxy]phenyl}sulfonyl)-3-thiomorpholine carboxylic acid | 0.215 g, 79% | CC1([C@@H](N(CCS1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC1=CC=CC=C1)C(=O)O)C | C22H23NO5S2
